US04999377
N-3- Methoxypropyl 4-[2-(N-benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]phenoxyacetamide (2.7g) was dissolved in methanol (130 ml) and acidified to pH3 with an ethereal solution of hydrogen chloride. 10% Palladium on carbon (440 mg) was added and the mixture stirred under an atmosphere of hydrogen for 4 hours. The mixture was filtered through diatomaceous earth and the filtrate evaporated to give a crude product, which was purified by chromatography on K60 silica (55 g) using 10% methanol in dichloromethane as eluant. The product was dissolved in dichloromethane and ethereal hydrogen chloride added to give a pH of 3. The solvent was evaporated and the residue dissolved in dichloromethane which was also evaporated. The residue (1.4 g) was recrystallised from methyl acetate (50 ml) and methanol (15 ml). Thus was obtained N-3- methoxypropyl 4-[2-(2-hydroxy-3-phenoxypropyl-amino)ethyl]phenoxyacetamide (0.75 g), m.p. 167°9°, the NMR data were consistent with those of Example 11.

reactant | N-3- Methoxypropyl 4-[2-(N-benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]phenoxyacetamide | 2.7g | COCCCNC(COC1=CC=C(C=C1)CCN(CC(COC1=CC=CC=C1)O)CC1=CC=CC=C1)=O | C30H38N2O5
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 130 ml | CO | CH4O
catalyst | Palladium on carbon | 440 mg | [Pd] | Pd
product | N-3- methoxypropyl 4-[2-(2-hydroxy-3-phenoxypropyl-amino)ethyl]phenoxyacetamide | 0.75 g | COCCCNC(COC1=CC=C(C=C1)CCNCC(COC1=CC=CC=C1)O)=O | C23H32N2O5
